US08067654B2
(a) Synthesis of (C6H5)2PN(CH2CH2CH2OCH3)P(C6H5)2
Chlorodiphenylphosphine (4.9 mL, 26 mmol, 2.5 equiv.) was dissolved in dry toluene (150 mL). Under an atmosphere of argon, an excess of triethylamine (8.0 mL, 58 mmol) was syringed into the reaction flask, which was stirred for 5 minutes. 3-Methoxypropylamine (1.1 mL, 11 mmol) was then syringed dropwise under argon. A precipitate immediately formed. The reaction mixture was then allowed to stir for 36 hrs at 110° C. The ammonium salt was filtered off and the solvent and the excess triethylamine and diphenylphosphine were removed in vacuo to leave a yellowish residue. The residue was passed through a silica gel plug using a CH2Cl2/petroleum ether (1:1) mixture as the eluent. Removing the solvent and triturating with petroleum ether afforded 3.564 g of a fine white powder in 75% yield. 1H NMR (RT, 300 MHz, CDCl3): δ=1.39 (2H, br tt, JHH=8.1 Hz, JHH=6.3 Hz, CH2), 3.03 (2H, t, JHH=6.3 Hz, CH2O), 3.10 (3H, s, OCH3), 3.27-3.44 (2H, m, NCH2), 7.28-7.46 (20H, m, ArH). 31P NMR (RT, 121 MHz, CDCl3): δ=63.1 ppm (s). MS (FAB+): 458 (M+H).

reactant | Chlorodiphenylphosphine | 26 mmol, 4.9 mL, 2.5 equiv. | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | triethylamine | 58 mmol, 8.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-Methoxypropylamine | 11 mmol, 1.1 mL | COCCCN | C4H11NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (C6H5)2PN(CH2CH2CH2OCH3)P(C6H5)2 | 3.564 g, 75% yield | P(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCCOC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NOP2
